Name:  ___     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Dapsone / methotrexate
 
Attending: ___.
 
Chief Complaint:
Fever and redness of portacath site
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ is a ___ man with HIV and CNS lymphoma 
receiving MTX (last cycle ___ s/p portacath insertion ___ 
by ___ and recent NSTEMI while admitted for methotrexate therapy 
presents with pain, redness and warmth at the portacath site. He 
was seen by a doctor in the ___ almost two weeks 
ago and is now on day 5 of clindamycin and day 7 of levoflox 
(prescribed a ___t that time). He notes he had 
fevers and chills prior to presenting to the provider in the ___ 
___ after a day of antibiotics symptoms are improving and 
he has had no further fevers. There is some residual erythema 
and tenderness at the port site but he feels it is dramatically 
improved. He presented to the ED today for further evaluation of 
this issue. Regarding his HIV, last CD4 count in our system was 
___ and was 275. 

ED course:
- Triage   12:58:  Temperature 97.6 F, pulse 87, blood pressure 
118/70, respiration 18 and oxygen saturation is 99% in room air 
On examination, Portacath site noted to be red, swollen and 
tender with extrusion of internal suture.  
- labs: Lactate: 1.2. 
chem 138/3.5; 106/24: ___ <86. 
CBC: 7.6 (64% PMNS) > 38.2 <314. INR 1.1
- interventions: ED resident spoke with Dr. ___ advised 
admission for likely portacath removal. Received clindamycin 
300mg po once and levoflox 500mg po once.

On the floor, patient is comfortable and well-appearing. He 
denies pain at the port site. He denies feeling flushed or 
chills.

REVIEW OF SYSTEMS:
GENERAL: No night sweats, recent weight changes.
HEENT: No sores in the mouth, painful swallowing, intolerance to 
liquids or solids, sinus tenderness, rhinorrhea, or congestion.
CARDS: No chest pain, chest pressure, exertional symptoms, or
palpitations.
PULM: No cough, shortness of breath, hemoptysis, or wheezing.
GI: No nausea, vomiting, constipation or abdominal pain. No 
hematochezia or melena. He does note he has had some diarrhea 
since starting the antibiotics.
GU: No dysuria or change in bladder habits.
MSK: No arthritis, arthralgias, myalgias, or bone pain.
DERM: Denies rashes, itching, or skin breakdown.
NEURO: No headache, visual changes, numbness/tingling, 
paresthesias, or focal neurologic symptoms.
PSYCH: No feelings of depression or anxiety. All other review of 
systems negative.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:
-- ___ - stereotaxic biopsy of the mass by Dr. ___  
-- ___ - started high-dose methotrexate  
-- ___ - C2D1 HD-MTX
-- ___  - C3D1 HD-MTX
-- ___ - C4D1 HD-MTX
-- ___   - C5D1 HD-MTX
-- ___  - C6D1 HD-MTX
-- ___   - C7D1 HD-MTX
-- ___   - C8D1 HD-MTX
-- ___  - C9D1 HD-MTX
-- ___  - C10D1 HD-MTX
-- ___   - C11D1 HD-MTX
 
PAST MEDICAL HISTORY:
-coronary artery disease s/p PCI in ___ and ___
-NSTEMI ___
-HIV
-pancreatitis (possibly from dapsone)
-hypertension,
-hypercholesterolemia
-gastric ulcer
-h/o right-sided ophthalmic shingles as well as shingles in V3
distribution in ___.  
 
Social History:
___
Family History:
Mother - diabetes
Father - glaucoma, prostate cancer
 
Physical Exam:
EXAMINATION ON ADMISSION:
===============================
VITAL SIGNS: Temperature 97.9 F, blood pressure 112/78, pulse 
80, respiration 18 and oxygen saturation 99% in room air
GENERAL:  NAD
HEENT:  MMM, no OP lesions, no cervical, supraclavicular, or 
axillary adenopathy, no thyromegaly
CARDIOVASCULAR:  RR, NL S1S2 no S3S4 MRG
CHEST: mild erythema over the portacath insertion site, but the 
venous access port closer to the neck has an open area of skin 
breakdown and erythema however neither area is painful on 
palpation
PULMONARY:  CTAB
ABDOMEN:  BS+, soft, NTND, no masses or hepatosplenomegaly
LIMBS:  No edema, clubbing, tremors, or asterixis
SKIN:  No rashes

NEUROLOGICAL EXAMINATION:  Cranial nerves II-XII are within 
normal limits excluding visual acuity which was not assessed, no 
nystagmus; strength is ___ of the proximal and distal upper and 
lower extremities; Coordination is intact, no tremor or 
asterixis

EXAMINATION ON DISCHARGE:
================================
VITAL SIGNS: Temperature 98.0 F, blood pressure 108/70, pulse 
81, respiration 18 and oxygen saturation 100% in room air
VITAL SIGNS Range: Tmax=98  BP (108-112/66-78)  HR (65-81)
GENERAL: in no acute distress, pleasant mood
CHEST: mild erythema over the portacath insertion site, no pus 
seen
CARDIOVASCULAR: normal S1/S2, no m/r/g
LUNGS: CTAB
ABDOMEN: soft, BS+, nontender, nondistended
LIMBS:  No edema, clubbing, tremors, or asterixis
SKIN:  No rashes

NEUROLOGICAL EXAMINATION:  No change.  Cranial nerves II-XII are 
within normal limits excluding visual acuity which was not 
assessed, no nystagmus; strength is ___ of the proximal and 
distal upper and lower extremities; Coordination is intact, no 
tremor or asterixis
 
Pertinent Results:
PERTINENT LABS:
=================
___ 08:00AM BLOOD WBC-5.9 RBC-4.12* Hgb-12.6* Hct-38.0* 
MCV-92 MCH-30.6 MCHC-33.2 RDW-13.8 Plt ___
___ 08:00AM BLOOD Glucose-163* UreaN-12 Creat-0.9 Na-140 
K-4.2 Cl-108 HCO3-25 AnGap-11
___ 08:00AM BLOOD Calcium-9.2 Phos-2.4* Mg-1.9

CARDIOLOGY:
=================
ECG (___): Sinus rhythm. Right bundle-branch block. Compared 
to the previous tracing of ___ the rate has increased. The 
Q-T interval has shortened. Otherwise, no diagnostic interim 
change.

MICROBIOLOGY:
=================
- Stool culture (___): 
     - C. difficile DNA amplification assay: negative
     - FECAL CULTURE: NO SALMONELLA OR SHIGELLA FOUND. 
     - CAMPYLOBACTER CULTURE: NO CAMPYLOBACTER FOUND. 
- Blood culture x 2 (___): PENDING
 
Brief Hospital Course:
___ is a ___ man with HIV and CNS lymphoma 
(last treated with MTX ___ presents to ___ 13 days after 
experiencing pain, redness, and warmth at ___ site. His 
last CD4 was 275 in ___. 

(1) Port Infection: 
Patient began experiencing pain/redness/warmth at ___ site 
on ___ while in the ___ - he was seen by a 
doctor there, and then started on clindamycin and levofloxacin. 
Although symptoms had dramatically improved (only residual 
erythema/tenderness left), he presented to ___ ___ to 
receive further evaluation. Upon admission, blood cultures were 
sent (still pending) and he was evaluated by IV nurse and 
medical staff, who found no purulence or evidence of surrounding 
infection/collection at either port site or at location of more 
cranial stitch. The stitch was trimmed down. No evidence on labs 
of infection (afebrile, no HR/BP abnormalities, no 
leukocytosis). He was discharged on the same clindamycin and 
levofloxacin regimen, to be completed on ___.

(2) Antibiotic Associated Diarrhea: 
Patient reported experiencing multiple bouts of loose/liquid 
diarrhea since initiation of antibiotics. He was afebrile, and 
his vital signs/labs showed no evidence of c.diff infection. The 
stool culture, fecal culture, and c. diff assay returned 
negative on ___. The patient's diarrhea is presumed to be 
associated with antibiotic use, and may be treated with 
loperamide in follow-up.

TRANSITIONAL CARE ISSUES:
=====================
- follow-up with Dr. ___ to be scheduled
- manage diarrhea (likely antibiotic-related) with loperamide
- follow-up pending blood cultures
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Clindamycin 600 mg PO Q6H 
2. Levofloxacin 500 mg PO Q24H 
3. Lopinavir-Ritonavir 2 TAB PO BID 
4. Acyclovir 800 mg PO Q8H 
5. Aspirin 81 mg PO DAILY 
6. Lisinopril 5 mg PO DAILY 
7. Metoprolol Succinate XL 12.5 mg PO DAILY 
8. Pantoprazole 40 mg PO Q24H 
9. Atorvastatin 80 mg PO DAILY 
10. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
11. Clopidogrel 75 mg PO DAILY 

 
Discharge Medications:
1. Acyclovir 800 mg PO Q8H 
2. Aspirin 81 mg PO DAILY 
3. Atorvastatin 80 mg PO DAILY 
4. Clopidogrel 75 mg PO DAILY 
5. Emtricitabine-Tenofovir (Truvada) 1 TAB PO DAILY 
6. Lisinopril 5 mg PO DAILY 
7. Lopinavir-Ritonavir 2 TAB PO BID 
8. Metoprolol Succinate XL 12.5 mg PO DAILY 
9. Pantoprazole 40 mg PO Q24H 
10. Clindamycin 450 mg PO Q6H 
RX *clindamycin HCl 150 mg 3 capsule(s) by mouth every six (6) 
hours Disp #*60 Capsule Refills:*0
11. Levofloxacin 500 mg PO Q24H 
RX *levofloxacin 500 mg 1 tablet(s) by mouth daily Disp #*5 
Tablet Refills:*0
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right chest cellulitis associated with port:  Improved
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure participating in your care while you were 
inpatient at ___. You were admitted for consideration of port 
removal as you recently had an infection. Your port was 
evaluated, and does not require removal. You will finish your 
antibiotics as scheduled tomorrow (levofloxacin and 
clindamycin). 

You will have a follow-up scheduled with Dr. ___ week. You 
will be contacted with this appointment. Please do not hesitate 
to call his office if you develop fevers, chills, nausea, 
vomiting, diarrhea or other concerning symptoms.

We wish you the best, 
Your ___ team!
 
Followup Instructions:
___